US07687491B2
(15c) Methyl 1-({5-[5-(3-chloro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-ethyl-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 1 (1f) using {5-[5-(3-chloro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-ethyl-2-thienyl}methanol (0.17 g, 0.41 mmol) that was obtained in Example 15 (15b), carbon tetrabromide (0.18 g, 0.53 mmol), triphenylphosphine (0.14 g, 0.53 mmol), methyl 3-azetidinecarboxylate hydrochloride (93 mg, 0.62 mmol), and N,N-diisopropylethylamine (0.21 mL, 1.2 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3) as the eluent to afford the title compound (0.15 g) in a yield of 73% as a pale yellowish oily product.

reactant | {5-[5-(3-chloro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-ethyl-2-thienyl}methanol | 0.41 mmol, 0.17 g | ClC=1C=C(C=CC1OC1=CC=CC=C1)C1=NC(=NO1)C1=C(C=C(S1)CO)CC | C21H17ClN2O3S
reactant | carbon tetrabromide | 0.53 mmol, 0.18 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.53 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.62 mmol, 93 mg | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(3-chloro-4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-4-ethyl-2-thienyl}methyl)azetidine-3-carboxylate | ClC=1C=C(C=CC1OC1=CC=CC=C1)C1=NC(=NO1)C1=C(C=C(S1)CN1CC(C1)C(=O)OC)CC | C26H24ClN3O4S
